US07829580B2
(E)-3-{[2-(Carboxymethyl)-2H-tetrazol-5-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 2-1593)
(E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[2-(methoxycarbonylmethyl)-2H-tetrazol-5-yl]methylidene}-4-sulfanylpiperidine hydrochloride (135 mg) was subjected to the procedure similar to that described in Example 134. After purification by preparative HPLC (YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.024 N hydrochloric acid, 25/75, v/v), the title compound (91.6 mg, yield: 70%) was obtained as a colourless amorphous solid.

reactant | (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[2-(methoxycarbonylmethyl)-2H-tetrazol-5-yl]methylidene}-4-sulfanylpiperidine hydrochloride | 135 mg | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C=1N=NN(N1)CC(=O)OC)=O
solvent | acetonitrile | 0.024 N | C(C)#N | C2H3N
product | (E)-3-{[2-(Carboxymethyl)-2H-tetrazol-5-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride | 91.6 mg, yield: 70% | Cl.C(=O)(O)CN1N=C(N=N1)\C=C\1/CN(CCC1S)C(C(=O)C1CC1)C1=C(C=CC=C1)F | InChI=1S/C20H22FN5O3S.ClH/c21-15-4-2-1-3-14(15)19(20(29)12-5-6-12)25-8-7-16(30)13(10-25)9-17-22-24-26(23-17)11-18(27)28;/h1-4,9,12,16,19,30H,5-8,10-11H2,(H,27,28);1H/b13-9+;
